US08383639B2
3-(Benzyloxy)-N′-(2-(4-fluorophenyl)acetyl)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbohydrazide.
To stirred solution of 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbohydrazide (0.170 g, 0.49 mmol) and Et3N (0.14 mL, 1 mmol) in CH2Cl2 (10 mL) was added 2-(4-fluorophenyl)acetyl chloride (69 mL, 0.5 mmol) and the mixture stirred 2 h at room temperature. The reaction mixture was purified by preparative HPLC on a C18 column using water/MeOH containing 0.1% TFA as eluent to afford the title compound (0.078 g, 33% yield) as a white solid. 1HNMR (500 MHz, CDCl3) δ: 9.97 (1H, d, J=7.0 Hz), 8.42 (1H, d, J=6.7 Hz), 7.54 (2H, d, J=6.7 Hz), 7.35-7.27 (5H, m), 7.05 (2H, t, J=8.6 Hz), 5.36 (2H, s), 4.04-3.98 (4H, m), 3.64 (2H, s), 1.60 (6H, s). HRMS (M+H) calcd for C25H26N4O5F: 481.1887. found: 481.1866.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbohydrazide | 0.49 mmol, 0.170 g | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NN | C17H20N4O4
reactant | Et3N | 1 mmol, 0.14 mL | CCN(CC)CC | C6H15N
reactant | 2-(4-fluorophenyl)acetyl chloride | 0.5 mmol, 69 mL | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(Benzyloxy)-N′-(2-(4-fluorophenyl)acetyl)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbohydrazide | 0.078 g, 33% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NNC(CC1=CC=C(C=C1)F)=O | C25H25FN4O5
